US07429609B2
5-Bromo-6-fluoro-1H-indazole
To a solution of 22.5 g of 1-(5-bromo-6-fluoro-indazol-1-yl)ethanone in 250 mL of ethanol was added 20.0 mL of 5N sodium hydroxide aqueous solution at room temperature, and stirred at this temperature for 5 minutes. After neutralizing in 5N hydrochloric acid aqueous solution, the solution was diluted with ethyl acetate. The organic layer was successively washed with water and saturated brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated. The residue was purified and separated by silica gel column chromatography (ethyl acetate:n-hexane=1:3), to afford 16.7 g of the title compound as pale brown crystals.

reactant | 1-(5-bromo-6-fluoro-indazol-1-yl)ethanone | 22.5 g | BrC=1C=C2C=NN(C2=CC1F)C(C)=O | C9H6BrFN2O
reactant | sodium hydroxide | 5N, 20.0 mL | [OH-].[Na+]
solvent | ethanol | 250 mL | C(C)O | C2H6O
solvent | hydrochloric acid | 5N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Bromo-6-fluoro-1H-indazole | 16.7 g | BrC=1C=C2C=NNC2=CC1F | C7H4BrFN2
